US07741327B2
To a stirred solution of (S)-2-amino-3-cyclohexyl-propionic acid methyl ester (1.10 g, 0.006 mol) in N,N-dimethylformamide (10 mL) was added N,N-diisopropylethylamine (3.51 g, 0.027 mol) slowly at room temperature, under nitrogen. The resulting mixture was stirred for 5 min and then treated with (E)-4-bromo-3-(2-methylsulfanyl-phenoxy)-but-2-enoic acid ethyl ester (1.80 g, 0.005 mol) and the reaction mixture was heated at 110° C.-120° C. for 16 h. After this time, ice water was added and the resulting mixture was extracted with ethyl acetate. The combined organic layers were washed with a saturated aqueous sodium chloride solution, dried over sodium sulfate and concentrated in vacuo. Purification by flash column chromatography (silica gel (100-200 mesh)) afforded (S)-3-cyclohexyl-2-[4-(2-methylsulfanyl-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-propionic acid methyl ester (250 mg, 11%) as a yellow oil.

reactant | (S)-2-amino-3-cyclohexyl-propionic acid methyl ester | 0.006 mol, 1.10 g | COC([C@H](CC1CCCCC1)N)=O | C10H19NO2
reactant | N,N-diisopropylethylamine | 0.027 mol, 3.51 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (E)-4-bromo-3-(2-methylsulfanyl-phenoxy)-but-2-enoic acid ethyl ester | 0.005 mol, 1.80 g | C(C)OC(\C=C(/CBr)\OC1=C(C=CC=C1)SC)=O | C13H15BrO3S
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | (S)-3-cyclohexyl-2-[4-(2-methylsulfanyl-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-propionic acid methyl ester | 250 mg, 11% | COC([C@H](CC1CCCCC1)N1C(C=C(C1)OC1=C(C=CC=C1)SC)=O)=O | C21H27NO4S
